### PR TITLE
Update ARM and AARCH64 AInvs for explicit FPU changes

### PR DESCRIPTION
**Pull request by corlewis**
This updates the AInvs proofs for ARM and AARCH64 following the specification changes made in https://github.com/seL4/l4v/pull/819 that made FPU state more explicit and changed the kernel to use semi-lazy FPU switching. It additionally proves a new invariant about the FPU that we expect to be necessary for later stages of the functional correctness proofs and also updates Access for ARM.

### CODE REVIEW

File: spec/abstract/AARCH64/Arch_Structs_A.thy [hunk 1]
```diff
@@ -369,13 +369,14 @@ text \<open> Arch-specific part of a TCB: this must have at least a field for us
 record arch_tcb =
   tcb_context :: user_context
   tcb_vcpu    :: "obj_ref option"
+  tcb_cur_fpu :: bool
```
Comment (lsf37) [inline spec/abstract/AARCH64/Arch_Structs_A.thy:372]: We should probably have a comment in the spec what this field is used for and that it is a ghost variable (we only write to it, never read from it).

Comment (lsf37) [reply spec/abstract/AARCH64/Arch_Structs_A.thy:372]: (The comment could be mostly copy/paste from the commit message)

File: proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy [hunk 2]
```diff
@@ -175,4 +169,110 @@ global_interpretation TcbAcc_AI?: TcbAcc_AI
   case 1 show ?case by (unfold_locales; (fact TcbAcc_AI_assms)?)
   qed
 
+context Arch begin arch_global_naming
+
+\<comment> \<open>FIXME: do we want a generic version with valid_arch_idle in the precondition\<close>
+lemma arch_thread_set_valid_idle[wp]:
+  "\<lbrace>valid_idle and (\<lambda>s. t \<noteq> idle_thread s \<or> (\<forall>atcb. tcb_vcpu atcb = None \<longrightarrow> tcb_vcpu (f atcb) = None))\<rbrace>
+   arch_thread_set f t
+   \<lbrace>\<lambda>rv. valid_idle\<rbrace>"
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy:178]: After completing the proof, do you think it would be useful? I guess we'll know more about the arch interface when we have made the other architectures work again.

File: proof/invariant-abstract/AARCH64/Machine_AI.thy [hunk 3]
```diff
@@ -267,16 +271,16 @@ crunch_ignore (valid, empty_fail, no_fail)
...
     )
 
 (* Crunches for machine ops without concrete implementations (using _impl or _val).
    List obtained using:
    grep -oE "(\w+_impl)|(get\w+)" MachineOps.thy|sort|uniq|sed "s/_impl//;s/$/,/;s/^/  /"
    with the following manual interventions:
-   - remove false positives: get_def, gets_def, getFPUState, getRegister, getRestartPC
-   - add read_cntpct
+   - remove false positives: get_def, gets, gets_def, getFPUState, getRegister, getRestartPC
+   - add read_cntpct and readFpuState
```
Comment (lsf37) [inline proof/invariant-abstract/AARCH64/Machine_AI.thy:283]: Thanks for updating that comment!

**Review by lsf37 — APPROVED** [review]
Good work, and a very substantial chunk of the overall FPU proof. Only the minor comments above from me, no real content changes.

File: proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy (hunk 2 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy:178]: I've pulled this commit into a separate [PR ](https://github.com/seL4/l4v/pull/852)so that I could do all of the architectures now. Doing that convinced me that I might as well make the generic version and then more specific arch ones as needed.

**Comment by corlewis** [comment]
For anyone reviewing this in its current state, ignore the `refactor arch_thread_get/set lemmas` commit, I've pulled it into a separate PR for master and it will go away here once https://github.com/seL4/l4v/pull/852 is merged and I've rebased this branch.

**Review by ryybrr — APPROVED** [review]

**Comment by corlewis** [comment]
> For anyone reviewing this in its current state, ignore the `refactor arch_thread_get/set lemmas` commit, I've pulled it into a separate PR for master and it will go away here once #852 is merged and I've rebased this branch.

This branch has been rebased over master now #852 has been merged.
I've also updated x64 aspec for the `tcb_cur_fpu` ghost variable, as it will be needed there in the future and I want to keep the architectures in sync where possible to make patching between them easier once I'm up to that stage.

File: proof/invariant-abstract/Tcb_AI.thy [hunk 4]
```diff
@@ -1215,6 +1265,13 @@ lemma decode_unbind_notification_wf:
   apply clarsimp
   done
 
+lemma decode_set_flags_wf[wp]:
+  "\<lbrace>invs and tcb_at t and ex_nonz_cap_to t\<rbrace>
+   decode_set_flags args (cap.ThreadCap t)
+   \<lbrace>tcb_inv_wf\<rbrace>,-"
+  apply (simp add: decode_set_flags_def)
+  by wpsimp
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Tcb_AI.thy:1273]: trivial: apply+by can be one-lined into by .../..., same as above

File: proof/invariant-abstract/Tcb_AI.thy [hunk 5]
```diff
@@ -816,24 +824,64 @@ lemma bind_notification_invs:
...
+             thread_set_valid_reply_masters_trivial
+             valid_irq_node_typ valid_irq_handlers_lift
+             thread_set_caps_of_state_trivial
+             thread_set_arch_caps_trivial
+             thread_set_only_idle
+             thread_set_cap_refs_in_kernel_window
+             thread_set_valid_ioc_trivial thread_set_valid_arch_state thread_set_valid_cur_fpu
+             thread_set_cap_refs_respects_device_region
+              | simp add: ran_tcb_cap_cases invs_def valid_state_def valid_pspace_def
+              | rule conjI | erule disjE)+
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Tcb_AI.thy:865]: this looks like a move, but the indentation is off on wp args and `|`

File: proof/invariant-abstract/Tcb_AI.thy [hunk 6]
```diff
@@ -41,6 +41,12 @@ locale Tcb_AI_1 =
   assumes arch_post_modify_registers_ex_nonz_cap_to[wp]:
   "\<And>c t a. \<lbrace>\<lambda>(s::'state_ext state). ex_nonz_cap_to a s\<rbrace> arch_post_modify_registers c t
        \<lbrace>\<lambda>b s. ex_nonz_cap_to a s\<rbrace>"
+  assumes arch_post_set_flags[wp]:
+    "\<And>t flags. arch_post_set_flags t flags \<lbrace>invs :: 'state_ext state \<Rightarrow> _\<rbrace>"
+  assumes arch_prepare_set_domain_invs[wp]:
+    "\<And>t d. arch_prepare_set_domain t d \<lbrace>invs :: 'state_ext state \<Rightarrow> _\<rbrace>"
+  assumes arch_prepare_set_domain_typ_at[wp]:
+    "\<And>t d P T p. arch_prepare_set_domain t d \<lbrace>\<lambda>s::'state_ext state. P (typ_at T p s)\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/Tcb_AI.thy:49]: indent of your new assumptions does not match the rest in the block; might want to blend in

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 7]
```diff
@@ -1552,6 +1575,40 @@ lemma thread_set_not_state_valid_sched:
...
+  "arch_thread_set f tptr \<lbrace>valid_queues\<rbrace>"
+  by (rule valid_queues_lift; wpsimp)
+
+lemma arch_thread_set_weak_valid_sched_action[wp]:
+  "arch_thread_set f tptr \<lbrace>weak_valid_sched_action\<rbrace>"
+  by (wp weak_valid_sched_action_lift)
+
+lemma arch_thread_set_valid_sched_action[wp]:
+  "arch_thread_set f tptr \<lbrace>valid_sched_action\<rbrace>"
+  by (wp valid_sched_action_lift)
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:1593]: curious: are any in this block cruncheable?

File: proof/invariant-abstract/DetSchedSchedule_AI.thy [hunk 8]
```diff
@@ -220,6 +220,7 @@ abbreviation valid_sched_except_blocked_2 where
 abbreviation valid_sched_except_blocked :: "'z state \<Rightarrow> bool" where
   "valid_sched_except_blocked s \<equiv> valid_sched_except_blocked_2 (ready_queues s) (etcbs_of s) (scheduler_action s) (cur_domain s) (kheap s) (cur_thread s) (idle_thread s)"
 
+\<comment> \<open>FIXME: remove\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/DetSchedSchedule_AI.thy:223]: for this PR?

File: proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy [hunk 9]
```diff
@@ -1521,8 +1521,9 @@ lemma handle_invocation_valid_pdpt[wp]:
      (auto simp: ct_in_state_def elim: st_tcb_ex_cap)
 
 
-crunch handle_event, activate_thread, switch_to_thread,
-       switch_to_idle_thread, schedule_choose_new_thread
+crunch
+  handle_event, activate_thread, switch_to_thread, switch_to_idle_thread,
+  schedule_choose_new_thread, arch_prepare_next_domain
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy:1526]: is this better? it'll cause the context block for diffs to show only "crunch"

File: proof/invariant-abstract/ARM/ArchInvariants_AI.thy [hunk 10]
```diff
@@ -747,6 +747,12 @@ definition
 where
   "hyp_live ko \<equiv> False"
 
+definition arch_tcb_live :: "arch_tcb \<Rightarrow> bool" where
+  "arch_tcb_live arch_tcb \<equiv> False"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/ARM/ArchInvariants_AI.thy:751]: usually we want a comment for these, e.g. "No FPU on this platform" or whatever is the reason

File: proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy [hunk 11]
```diff
@@ -231,6 +233,34 @@ lemma arch_thread_set_vcpus_of[wp]:
   apply (clarsimp simp: obj_at_def opt_map_def)
   done
 
+\<comment> \<open>FIXME: Shouldn't state_hyp_refs_of be generic? If it was, then this and
+          arch_thread_set_sym_refs_hyp' could be generic as well\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy:237]: good question. I have no idea, when I did the split it looked like it shouldn't be, or at least its definition shouldn't be. @lsf37 do you remember discussing this by any chance?

File: proof/invariant-abstract/AARCH64/ArchSchedule_AI.thy [hunk 12]
```diff
@@ -28,9 +28,88 @@ lemma dmo_mapM_storeWord_0_invs[wp,Schedule_AI_assms]:
    apply wp
   by (simp add: upto.simps word_bits_def)
 
+lemma set_arm_current_fpu_owner_valid_cur_fpu_except[wp]:
+  "set_arm_current_fpu_owner new_owner \<lbrace>valid_cur_fpu\<rbrace>"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchSchedule_AI.thy:32]: name doesn't match statement (except)

File: proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy [hunk 13]
```diff
@@ -828,6 +828,34 @@ lemma valid_arch_state_lift_aobj_at:
 end
 end
 
+\<comment> \<open>FIXME: if tcb_at and related terms were moved to InvariantsPre_AI then this lemma could go in
+     ArchInvariants_AI.\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy:832]: you might want to make this and the one below a `FIXME arch-split`, I'm not sure right now

File: proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy:237]: also `FIXME arch-split` please

File: proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy [hunk 14]
```diff
@@ -535,6 +542,9 @@ definition hyp_live :: "kernel_object \<Rightarrow> bool" where
    | ArchObj ao \<Rightarrow> arch_live ao
    |  _ \<Rightarrow> False"
 
+definition arch_tcb_live :: "arch_tcb \<Rightarrow> bool" where
+  "arch_tcb_live arch_tcb \<equiv> tcb_cur_fpu arch_tcb"
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy:546]: I think some kind of comment would be useful in this file that indicates the magic link between arch_tcb_live, is_tcb_cur_fpu and valid_cur_fpu, indicating whether a thread is the current FPU owner via ghost state and also indicating which thread is the FPU owner via global state

File: proof/invariant-abstract/AARCH64/ArchBCorres_AI.thy [hunk 15]
```diff
@@ -38,6 +38,11 @@ lemma pt_lookup_from_level_bcorres[wp]:
   "bcorres (pt_lookup_from_level l r b c) (pt_lookup_from_level l r b c)"
   by (induct l arbitrary: r b c rule: vm_level.minus_induct; wpsimp simp: pt_lookup_from_level_simps)
 
+\<comment> \<open>FIXME: move to BCorres_UL\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchBCorres_AI.thy:41]: this PR?

**Review by Xaphiosis — APPROVED** [review]
Very nice work capturing this. I only have minor comments and questions.

File: proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchTcbAcc_AI.thy:237]: ok, that sounds promising then

File: proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy (hunk 9 above)
Comment (corlewis) [reply proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy:1526]: It looks like we don't have any official style guidelines for crunch but this is what I've always done when the constants being crunched are too long to fit on the same line as the crunch command. I don't know how many of them are due to me but there's quite a lot of examples of this style in the proofs.

Thinking through it now, is it useful for the context block in diffs to show the first few constants being crunched, with no indication that there's more beyond a trailing comma?

Comment (Xaphiosis) [reply proof/invariant-abstract/ARM/ArchVSpaceEntries_AI.thy:1526]: I guess that's fair. It might still be worth it to have something so that you can search for that particular line in a file, but in a pinch the diff markers should tell you where that is. So I guess apart from a thought experiment, I don't have anything better for this one.

File: proof/invariant-abstract/DetSchedSchedule_AI.thy (hunk 8 above)
Comment (corlewis) [reply proof/invariant-abstract/DetSchedSchedule_AI.thy:223]: It's not really related to this PR so I wasn't planning to, but it violates enough of our guidelines and was easy enough that I've now done it.

File: proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy (hunk 14 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy:547]: I've added a couple of comments, let me know if they help or if you think it needs more. There's also the comment in the spec that is relevant and that people might come across if they're curious about the ghost variable.
https://github.com/seL4/l4v/blob/2cffea962d05fdbb99f9dfea5a27c73512c3bbbd/spec/abstract/AARCH64/Arch_Structs_A.thy#L370-L372

**Comment by corlewis** [comment]
Ok, I think all comments and suggestions have now been handled. The two initial commits and the three labelled squash contain all of this round of changes if someone wants to look at them. In particular, the new commit about removing the wp declaration of `valid_idle_etcb_lift` is completely new content.

**Comment by lsf37** [comment]
Looks good from my side, including the new material.

File: proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy [hunk 16]
```diff
@@ -828,6 +828,34 @@ lemma valid_arch_state_lift_aobj_at:
...
 end
 
+\<comment> \<open>FIXME arch-split: if tcb_at and related terms were moved to InvariantsPre_AI then this lemma could go in
+     ArchInvariants_AI.\<close>
+lemma current_fpu_owner_Some_tcb_at:
+  "\<lbrakk>arm_current_fpu_owner (arch_state s) = Some p; valid_cur_fpu s\<rbrakk> \<Longrightarrow> tcb_at p s"
+  by (auto simp: valid_cur_fpu_defs is_tcb)
+
+\<comment> \<open>FIXME arch-split: is_tcb_cur_fpu can't be defined like this because arch_tcb_at isn't defined until
+     Invariants_AI.\<close>
```
Comment (Xaphiosis) [inline proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy:838]: any reason for this novelty in indentation (and above)? it's showing up as aligning with "X" in "FIXME"

File: proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy (hunk 14 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy:548]: Done. Do you think the comment on `valid_cur_fpu` is helpful or is it repeating the definition and not adding much?

File: proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy (hunk 16 above)
Comment (corlewis) [reply proof/invariant-abstract/AARCH64/ArchKHeap_AI.thy]: No reason, I've tweaked it now. My best guess is that it was a combination of not paying much attention due to it being in a FIXME comment and vaguely wanting to avoid the long hanging indentation.

File: proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy (hunk 14 above)
Comment (Xaphiosis) [reply proof/invariant-abstract/AARCH64/ArchInvariants_AI.thy:548]: Cool, thanks.
It does a little, but it documents the intent. Looking at the definition and seeing it matches the intent gives me good feelings about it, so I'd leave it as is.
